US06627630B1
Production of 2-t-Butyl-6-[3-[4-(Diphenylmethoxy)piperidino]propylamino][1,2,4]triazolo[1,5-b]pyridazine Fumarate
276 mg of 2-t-butyl-6-chloro[1,2,4]triazolo[1,5-b]pyridazine and 0.425 g of 4-(diphenylmethoxy)-1-piperidinepropanamine were suspended in 8 ml of 1-butanol; 0.45 ml of N-ethyldiisopropylamine was added, followed by heating and refluxing for 40 hours. Ice water and sodium hydrogen carbonate were added, followed by extraction with ethyl acetate; the extract was washed with saturated saline, dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate:methanol:triethylamine (50:5:1). The desired fraction was collected and concentrated; the residue was dissolved in 10 ml of ethyl acetate; a solution of 40 mg of fumaric acid in 5 ml of methanol was added, followed by concentration. The residue was powdered by the addition of ethyl ether, filtered and collected to yield 164 mg of the title compound.

reactant | 2-t-butyl-6-chloro[1,2,4]triazolo[1,5-b]pyridazine | 276 mg | C(C)(C)(C)C1=NN2N=C(C=CC2=N1)Cl | C9H11ClN4
reactant | 4-(diphenylmethoxy)-1-piperidinepropanamine | 0.425 g | C1(=CC=CC=C1)C(OC1CCN(CC1)CCCN)C1=CC=CC=C1 | C21H28N2O
reactant | N-ethyldiisopropylamine | 0.45 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | 1-butanol | 8 ml | C(CCC)O | C4H10O
product | 2-t-Butyl-6-[3-[4-(Diphenylmethoxy)piperidino]propylamino][1,2,4]triazolo[1,5-b]pyridazine Fumarate | 164 mg | C(\C=C\C(=O)O)(=O)O.C(C)(C)(C)C1=NN2N=C(C=CC2=N1)NCCCN1CCC(CC1)OC(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C30H38N6O.C4H4O4/c1-30(2,3)29-32-27-16-15-26(33-36(27)34-29)31-19-10-20-35-21-17-25(18-22-35)37-28(23-11-6-4-7-12-23)24-13-8-5-9-14-24;5-3(6)1-2-4(7)8/h4-9,11-16,25,28H,10,17-22H2,1-3H3,(H,31,33);1-2H,(H,5,6)(H,7,8)/b;2-1+
